US07705030B2
Preparation of 4-[2-Amino-4-[3-(2-fluoropyridin-3-yl)phenyl]-1-methyl-5-oxo-4,5-dihydro-1H-imidazol-4-yl]-1-ethyl-1H-pyrrole-2-carbaldehyde O-methyloxime hydrochloride
A stirred suspension of 4-{2-amino-4-[3-(2-fluoropyridin-3-yl)phenyl]-1-methyl-5-oxo-4,5-dihydro-1H-imidazol-4-yl}-1-ethyl-1H-pyrrole-2-carbaldehyde (0.10 g; 0.25 mmol), in THF (5 mL), was added methoxylamine hydrochloride (0.021 g; 0.25 eq). The mixture was stirred at reflux temperature for 2 hours. The mixture was cooled and the solvent was evaporated. The residue was dissolved in dichloromethane and washed with water. The dichloromethane solution was dried over MgSO4, filtered and evaporated. The resultant residue was crystallized from ethyl acetate and hexane to yield the title compound, 0.069 g (64% yield), mp 190-193° C., MS (ES) m/z 433.1; [M−H]

reactant | 4-{2-amino-4-[3-(2-fluoropyridin-3-yl)phenyl]-1-methyl-5-oxo-4,5-dihydro-1H-imidazol-4-yl}-1-ethyl-1H-pyrrole-2-carbaldehyde | 0.25 mmol, 0.10 g | NC=1N(C(C(N1)(C1=CC(=CC=C1)C=1C(=NC=CC1)F)C=1C=C(N(C1)CC)C=O)=O)C | C22H20FN5O2
reactant | methoxylamine hydrochloride | 0.021 g, 0.25 eq | Cl.O(C)N
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-[2-Amino-4-[3-(2-fluoropyridin-3-yl)phenyl]-1-methyl-5-oxo-4,5-dihydro-1H-imidazol-4-yl]-1-ethyl-1H-pyrrole-2-carbaldehyde O-methyloxime hydrochloride | 64% yield | Cl.CON=CC=1N(C=C(C1)C1(N=C(N(C1=O)C)N)C1=CC(=CC=C1)C=1C(=NC=CC1)F)CC | InChI=1S/C23H23FN6O2.ClH/c1-4-30-14-17(12-18(30)13-27-32-3)23(21(31)29(2)22(25)28-23)16-8-5-7-15(11-16)19-9-6-10-26-20(19)24;/h5-14H,4H2,1-3H3,(H2,25,28);1H
